US07691867B2
A mixture of 7-(benzyloxy)-4-chloroquinazoline (1.94 g, 7.17 mmol) and 2-(4-amino-1H-pyrazol-1-yl)-N-(3-fluorophenyl)acetamide (1.66 g, 7.09 mmol) in dimethylacetamide (25 ml) was heated at 90° C. for 1 hour. The mixture was cooled to room temperature and then diluted with diethyl ether (75 ml) and filtered. The solid was washed with diethyl ether and dried to yield 2-(4-{[7-(benzyloxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(3-fluorophenyl)acetamide hydrochloride (2.92 g, 82% yield) as a yellow solid:

reactant | 7-(benzyloxy)-4-chloroquinazoline | 7.17 mmol, 1.94 g | C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)Cl | C15H11ClN2O
reactant | 2-(4-amino-1H-pyrazol-1-yl)-N-(3-fluorophenyl)acetamide | 7.09 mmol, 1.66 g | NC=1C=NN(C1)CC(=O)NC1=CC(=CC=C1)F | C11H11FN4O
solvent | dimethylacetamide | 25 ml | CC(=O)N(C)C | C4H9NO
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | 2-(4-{[7-(benzyloxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(3-fluorophenyl)acetamide hydrochloride | 2.92 g, 82% yield | Cl.C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)NC1=CC(=CC=C1)F | InChI=1S/C26H21FN6O2.ClH/c27-19-7-4-8-20(11-19)31-25(34)15-33-14-21(13-30-33)32-26-23-10-9-22(12-24(23)28-17-29-26)35-16-18-5-2-1-3-6-18;/h1-14,17H,15-16H2,(H,31,34)(H,28,29,32);1H
